US05861359
A mixture of 8.9 grams (0.04 mole) of 5-chloro-4-(4-methoxyphenyl)-2-methyl-imidazole, 34.0 grams (0.20 mole) of isopropyl iodide, and 27.8 grams (0.02 mole) of potassium carbonate in 200 mL of acetone is stirred at ambient temperature for about 18 hours. After this time the reaction mixture is shaken with 100 mL of water and 100 mL of diethyl ether. The organic layer is separated, washed with water, and dried with magnesium sulfate. The mixture is filtered and the filtrate is concentrated under reduced pressure to a residue. The residue is purified with column chromatography, yielding 5-chloro-1-(1-methylethyl)-4-(4-methoxyphenyl)-2-methylimidazole.

reactant | 5-chloro-4-(4-methoxyphenyl)-2-methyl-imidazole | 0.04 mole, 8.9 grams | ClC1=C(N=C(N1)C)C1=CC=C(C=C1)OC | C11H11ClN2O
reactant | isopropyl iodide | 0.20 mole, 34.0 grams | C(C)(C)I | C3H7I
reactant | potassium carbonate | 0.02 mole, 27.8 grams | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | acetone | 200 mL | CC(=O)C | C3H6O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 5-chloro-1-(1-methylethyl)-4-(4-methoxyphenyl)-2-methylimidazole | ClC1=C(N=C(N1C(C)C)C)C1=CC=C(C=C1)OC | C14H17ClN2O
